US07498335B2
1-{7-[3-(4-aminomethylpiperidin-1-yl)propoxy]-6-methoxyquinazolin-4-yl}-3-(2,6-dimethylphenyl)urea
Using an analogous procedure to that described in Example 21, 1-{7-[3-(4 tert-butoxycarbonylaminomethylpiperidin-1-yl)propoxy]-6-methoxyquinazolin-4-yl}-3-(2,6-dimethylphenyl)urea was reacted with trifluoroacetic acid to give the title compound; NMR Spectrum: (DMSOd6) 1.0-2.0 (m, 9H), 2.23 (s, 6H), 2.4 (m, 2H), 2.7-2.9 (m, 4H), 3.1-3.5 (partially obscured by a water signal), 3.93 (s, 3H), 4.18 (t, 2H), 6.9-7.15 (m, 4H), 7.23 (s, 1H), 8.03 (s, 1H), 8.62 (s, 1H), 11.7 (s, 1H); Mass Spectrum: M+H+ 493.

reactant | 1-{7-[3-(4 tert-butoxycarbonylaminomethylpiperidin-1-yl)propoxy]-6-methoxyquinazolin-4-yl}-3-(2,6-dimethylphenyl)urea | C(C)(C)(C)OC(=O)NCC1CCN(CC1)CCCOC1=C(C=C2C(=NC=NC2=C1)NC(=O)NC1=C(C=CC=C1C)C)OC | C32H44N6O5
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 1-{7-[3-(4-aminomethylpiperidin-1-yl)propoxy]-6-methoxyquinazolin-4-yl}-3-(2,6-dimethylphenyl)urea | NCC1CCN(CC1)CCCOC1=C(C=C2C(=NC=NC2=C1)NC(=O)NC1=C(C=CC=C1C)C)OC | C27H36N6O3
